Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M w/ h/o CHF (LVEF ___, AF on Coumadin, ICD d/t VT, 
presents from OSH s/p fall with SDH now s/p K centra and vit K. 
Pt was standing at bottom of stairs when tripped backwards, 
losing balance, falling/hitting back L of head. No LOC or 
preceding symptoms. Went to PCP, then OSH where CT head showed 
small SDH, so pt given K centra and vit K. 
 
Past Medical History:
Atrial fibrillation on Coumadin  
 ICD ___ placed ___ at ___  
 non-ischemic cardiomyopathy  
 Mitral Valve insufficiency  
Asthma  

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
O: T: 98.1 BP: 111/60   HR: 60    R: 18 
Gen: WD/WN, comfortable, NAD.
HEENT: L scalp laceration with sutures. 
Pupils:  PERRL  EOMs Full
Neck: Supple.
Lungs: No respiratory distress
Abd: NT/ND
Extrem: Warm and well-perfused.
Neuro: Mental status: Awake and alert, cooperative with exam,
normal affect. 

Discharge Physical Exam:
VS: 97.8, 61, 102/60, 18, 97%ra
Gen: A&O x3, ___ speaking
HEENT: left scalp lac, scabbed over
CV: HRR
Pulm: LS ctab
Abd: soft NT/ND
Ext: No edema

 
Pertinent Results:
___ 05:15AM BLOOD WBC-5.9 RBC-4.58* Hgb-10.5* Hct-34.2* 
MCV-75* MCH-22.9* MCHC-30.7* RDW-15.7* RDWSD-41.9 Plt ___
___ 10:10PM BLOOD WBC-10.2*# RBC-4.85 Hgb-11.4* Hct-36.0* 
MCV-74* MCH-23.5* MCHC-31.7* RDW-15.8* RDWSD-41.1 Plt ___
___ 05:15AM BLOOD Glucose-107* UreaN-25* Creat-1.1 Na-141 
K-3.8 Cl-106 HCO3-25 AnGap-14
___ 10:10PM BLOOD Glucose-125* UreaN-44* Creat-1.4* Na-135 
K-5.0 Cl-100 HCO3-22 AnGap-18
___ 05:15AM BLOOD Calcium-8.4 Phos-2.5* Mg-2.4

Radiology: 
___ - CT head: small SDH at the left frontoparietal lobe
___ - CT chest: left medical clavicular Fx, left 4th rib Fx
 
Brief Hospital Course:
___ y/o M with Afib on Coumadin, s/p mechanical fall with SDH. 
Also found to have left 4th rib fracture and left clavicle 
fracture. INR 1.1 at time of transfer to ___.  Neurosurgery 
was consulted and recommended repeat Head CT, which was stable. 
The patient was hemodynamically stable. He was admitted for 
neurological monitoring and ___. 

Neurosurgery recommended keppra x 7 days and vitamin K x 3 days. 
Coumadin was to be held for 7 days. Tertiary exam was negative 
for any other injuries. The patient worked with ___ who cleared 
him for home. The patient remained  neurologically and 
hemodynamically intact. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient and family member received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan
 
Medications on Admission:
Amiodarone, Furosemide, Lisinopril, Metoprolol
Succinate XL

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*40 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
3.  LevETIRAcetam 500 mg PO BID Duration: 7 Days 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*13 Tablet Refills:*0 
4.  Phytonadione 10 mg PO ONCE Duration: 1 Dose 
take on ___.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*15 Tablet Refills:*0 
6.  Amiodarone 200 mg PO DAILY  
7.  Furosemide 20 mg PO DAILY  
8.  Lisinopril 5 mg PO DAILY  
9.  Metoprolol Succinate XL 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left subdural hematoma
Left clavicular fracture 
Left 4th rib fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ after a mechanical fall. CT scan 
revealed you had an intracranial bleed, a left sided rib 
fracture and a left clavicle fracture. Because you are on a 
blood thinner, a repeat head CT scan was obtained, which did not 
show the bleeding in your head to be getting any worse. You have 
worked with Physical Therapy, and you are medically clear to be 
discharged home to continue your recovery. You should not take 
your Coumadin for 7 days (___). You are also being 
prescribed a new medication, Keppra, to prevent seizures from 
the blood in your head. You should take this for 7 days. You 
will also need one more dose of Vitamin K tomorrow. You will be 
provided with prescriptions for these medications, and pain 
medicine. You will need to follow-up at the appointments listed 
below. Please note the following discharge instructions:

* Your injury caused one rib fracture and a left clavicle 
fracture which can cause severe pain and subsequently cause you 
to take shallow breaths because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

Return to the Emergency Department or see your own doctor right 
away if any problems develop, including the following:
• Persistent nausea or vomiting.
• Increasing confusion, drowsiness or any change in alertness.
• Loss of memory.
• Dizziness or fainting.
• Trouble walking or staggering.
• Worsening of headache or headache feels different.
• Trouble speaking or slurred speech.
• Convulsions or seizures. These are twitching or jerking 
movements of the eyes, arms, legs or body.
• A change in the size of one pupil (black part of your eye) as 
compared to the other eye.
• Weakness or numbness of an arm or leg.
• Stiff neck or fever.
• Blurry vision, double vision or other problems with your 
eyesight.
• Bleeding or clear liquid drainage from your ears or nose.
• Very sleepy (more than expected) or hard to wake up.
• Unusual sounds in the ear.
• Any new or increased symptoms

 
 
Followup Instructions:
___